US07858646B2
Synthesis of 3-[5-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-pyridin-2-ylsulfanyl]-benzoic acid
Dissolve 3-mercapto-benzoic acid (482 mg, 3.13 mmol, commercially available) in dimethylformamide (20 mL) at 0° C. Add washed sodium hydride (300 mg), and stir the mixture for 10 minutes. Add 1-[4-(6-chloro-pyridin-3-ylmethoxy)-2-hydroxy-3-propyl-phenyl]-ethanone (1.00 g, 3.13 mmol). Stir the mixture at room temperature for 2 hours; then stir at 65° C. for 2 hours and finally stir at 120° C. overnight. Dilute in ethyl acetate, and wash with water twice. Extract the organic layer with saturated aqueous sodium bicarbonate. Acidify the aqueous layer with 2N hydrochloric acid hydrochloric acid to pH 3. Extract with ethyl acetate, wash with brine, dry and concentrate to afford 620 mg of a crude red solid. Purify the residue via chromatography, eluting with 1:1 hexane:ethyl acetate to afford the title compound as a light yellow powder (120 mg): 1H NMR (DMSO-d6) δ 0.84 (s, 3H), 1.44 (sextet, 2H), 2.55 (t, 2H), 2.58 (s, 3H), 5.24 (s, 2H), 6.74 (d, 1H), 7.14 (d, 1H), 7.63 (t, 1H), 7.75 (d, 1H), 7.81-7.84 (m, 2H), 8.02 (d, 1H), 8.05 (s, 1H), 8.51 (s, 1H), 12.84 (s, 1H), 13.21 (bs, 1H); MS (APCI-neg mode) m/z (rel intensity) 436 (100).

reactant | 3-mercapto-benzoic acid | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | 1-[4-(6-chloro-pyridin-3-ylmethoxy)-2-hydroxy-3-propyl-phenyl]-ethanone | 3.13 mmol, 1.00 g | ClC1=CC=C(C=N1)COC1=C(C(=C(C=C1)C(C)=O)O)CCC | C17H18ClNO3
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[5-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-pyridin-2-ylsulfanyl]-benzoic acid | 120 mg | C(C)(=O)C1=C(C(=C(OCC=2C=CC(=NC2)SC=2C=C(C(=O)O)C=CC2)C=C1)CCC)O | C24H23NO5S
